US06706703B2
1,4-Bis[5-[3,5-bis(hydroxymethyl)phenyl]-2-pyridyl]hexahydro-1,4-diazepine
Under nitrogen, a solution of 1,4-bis[5-[3,5-bis(methoxycarbonyl)phenyl]-2-pyridyl]hexahydro-1,4-diazepine (17.0 mg, 0.0266 mmol), which had been synthesized in Example 20, in anhydrous tetrahydrofuran (1.0 mL) was cooled to −20° C. To the resulting solution was added a 1.0 M solution of diisobutylaluminum hydride in toluene (0.40 mL, 0.40 mmol), and the resulting mixture was stirred for 1 hour. Methanol (0.2 mL, 4.9 mmol) was added to the mixture, and the bath was removed, then 0.50 M hydrochloric acid (1.0 mL, 0.50 mmol) was added. The mixture was stirred at room temperature for 1 hour, and a 1.0 M aqueous sodium hydroxide (1.0 mL, 1.0 mmol) and brine were added. The resulting mixture was extracted with chloroform, and the organic layer was dried over anhydrous sodium sulfate and concentrated under reduced pressure. The residue was purified by preparative thin-layer chromatography on silica gel to yield the title compound as a colorless amorphous powder (7.4 mg, yield: 53%).

reactant | 1,4-bis[5-[3,5-bis(methoxycarbonyl)phenyl]-2-pyridyl]hexahydro-1,4-diazepine | 0.0266 mmol, 17.0 mg | COC(=O)C=1C=C(C=C(C1)C(=O)OC)C=1C=CC(=NC1)N1CCN(CCC1)C1=NC=C(C=C1)C1=CC(=CC(=C1)C(=O)OC)C(=O)OC | C35H34N4O8
reactant | diisobutylaluminum hydride | [H-].C(C(C)C)[Al+]CC(C)C
reactant | toluene | 0.40 mmol, 0.40 mL | C1(=CC=CC=C1)C | C7H8
reactant | Methanol | 4.9 mmol, 0.2 mL | CO | CH4O
reactant | hydrochloric acid | 0.50 mmol, 0.50 M, 1.0 mL | Cl | ClH
reactant | sodium hydroxide | 1.0 mmol, 1.0 M, 1.0 mL | [OH-].[Na+]
solvent | tetrahydrofuran | 1.0 mL | O1CCCC1 | C4H8O
solvent | brine | [Cl-].[Na+].O
product | 1,4-Bis[5-[3,5-bis(hydroxymethyl)phenyl]-2-pyridyl]hexahydro-1,4-diazepine | 7.4 mg, yield: 53% | OCC=1C=C(C=C(C1)CO)C=1C=CC(=NC1)N1CCN(CCC1)C1=NC=C(C=C1)C1=CC(=CC(=C1)CO)CO | C31H34N4O4
